US04252724
The acid chloride of 2-(2-fluoro-4-trifluoromethylphenylamino)-3-methylbutanoic acid is reacted with 3-(3-fluorobenzyl)-pyrrolylmethyl alcohol using the procedure of Example 1 to give 3-(3-fluorobenzyl)-pyrrolylmethyl 2-(2-fluoro-4-trifluoromethylphenylamino)-3-methylbutanoate.

reactant | 2-(2-fluoro-4-trifluoromethylphenylamino)-3-methylbutanoic acid | FC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)O)C(C)C | C12H13F4NO2
reactant | 3-(3-fluorobenzyl)-pyrrolylmethyl alcohol | FC=1C=C(CC2=C(NC=C2)CO)C=CC1 | C12H12FNO
product | 3-(3-fluorobenzyl)-pyrrolylmethyl 2-(2-fluoro-4-trifluoromethylphenylamino)-3-methylbutanoate | FC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OCC=1NC=CC1CC1=CC(=CC=C1)F)C(C)C | C24H23F5N2O2
